US04985419
A solution of 2-(2-cyano-10-phenothiazinyl)-1-propyl methanesulphonate, L series (44 g) and 2,5-dihydropyrrol (42.2 g) in anhydrous toluene (250 cc) is heated to 90° C. with stirring for 18 hours. After cooling, the reaction mixture is extracted with distilled water (2×100 cc) and then with N aqueous hydrochloric acid solution (250 cc). The combined acidic aqueous phases are alkalinized with aqueous N sodium hydroxide solution and extracted with ethyl acetate (3×100 cc). The organic phases are combined, washed successively with distilled water (100 cc) and then with saturated aqueous sodium chloride solution (100 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. The yellowish oily residue (30.4 g) is purified by chromatography on a column (height: 38 cm; diameter 3.8 cm) of silica gel (0.04-0.063 mm) under a slight excess pressure of nitrogen (40 kPa), eluting with a mixture (75:25 by volume) (15 liters) of cyclohexane and ethyl acetate and collecting 1-liter fractions. Fractions 6 to 11 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. to give 10-[1-(2,5-dihydro-1-pyrrolyl)-2-propyl]-2-phenothiazinecarbonitrile, L series (11.15 g) in the form of a yellow oil.

reactant | 2-(2-cyano-10-phenothiazinyl)-1-propyl methanesulphonate | CS(=O)(=O)OCC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C17H16N2O3S2
reactant | 2,5-dihydropyrrol | 42.2 g | N1CC=CC1 | C4H7N
solvent | toluene | 250 cc | C1(=CC=CC=C1)C | C7H8
product | 10-[1-(2,5-dihydro-1-pyrrolyl)-2-propyl]-2-phenothiazinecarbonitrile | N1(CC=CC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C20H19N3S
